US07141596B2
Step 4. Synthesis of methyl 4-[1-(aminosulfonyl)-3-methoxy-3-oxopropyl]-3-bromobenzoate
1-[2-bromo-4-(methoxycarbonyl)phenyl]-3-methoxy-3-oxopropane-1-sulfonic acid—pyridine (1:1) (0.220 g, 0.478 mmol) was dissolved in methylene chloride (2 mL) at room temperature, and phosphorus pentachloride (0.199 g, 0.956 mmol) were added. The mixture was stirred overnight. The reaction solution was cannulated into a 2 mL ammonia hydroxide solution at 0° C. dropwise. After stirring for 1 h, the organic layer was isolated, aqueous layer was extracted with methylene chloride twice. The combined organic solutions were dried over sodium sulfate, filtered, concentrated. The residue was purified by preparative LCMS to afford product as slight yellow solid (114 mg, 63%). 1H NMR (400 MHz, CD3OD): δ 8.24 (d, J=1.5 Hz, 1H), 7.99 (dd, J=8.2, 1.5 Hz, 1H), 7.70 (d, J=8.2 Hz, 1H), 5.39 (dd, J=10.1, 4.9 Hz, 1H), 3.91 (s, 3H), 3.58 (s, 3H), 3.43 (dd, J=16.6, 4.9 Hz, 1H), 3.18 (dd, J=16.6, 10.1 Hz, 1H). LCMS found for C12H14BrNO6SNa (M+Na)+: m/z=401, 403.

reactant | 1-[2-bromo-4-(methoxycarbonyl)phenyl]-3-methoxy-3-oxopropane-1-sulfonic acid pyridine | 0.478 mmol, 0.220 g | BrC1=C(C=CC(=C1)C(=O)OC)C(CC(=O)OC)S(=O)(=O)O.N1=CC=CC=C1
reactant | phosphorus pentachloride | 0.956 mmol, 0.199 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ammonia hydroxide | 2 mL | [OH-].N
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-[1-(aminosulfonyl)-3-methoxy-3-oxopropyl]-3-bromobenzoate | 114 mg, 63% | NS(=O)(=O)C(CC(=O)OC)C1=C(C=C(C(=O)OC)C=C1)Br | C12H14BrNO6S
